US08067459B2
Synthesis of (5,6-dioxo-2,3,5,6-tetrahydronaphtho[1,2-b][1,4]oxathiin-2-yl)methyl methanesulfonate
To a solution of 2-(hydroxymethyl)-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione (1.0 g, 3.81 mmol) in dichloromethane (10 mL) was added triethylamine (1.0 mL, 7.63 mmol) and methanesulfonyl chloride (0.60 mL, 7.63 mmol). The resulting mixture was stirred for 1.5 hours at room temperature. Product was collected by filtration, washed with dichloromethane (10 mL) and dried under reduced pressure to provide the product as a purple solid (1.1 g, 85%). M.p.=230-232° C.; 400 MHz 1H NMR (DMSO-d6) δ: 7.89 (d, J=6.8 Hz, 1H), 7.75 (m, 2H), 7.56 (m, 1H), 4.81 (m, 1H), 4.65 (m, 1H), 4.54 (m, 1H), 3.05 (m, 2H), 1.16 (m, 3H); LCMS: 341 [M+H].

reactant | 2-(hydroxymethyl)-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione | 3.81 mmol, 1.0 g | OCC1CSC2=C(O1)C1=CC=CC=C1C(C2=O)=O | C13H10O4S
reactant | triethylamine | 7.63 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.63 mmol, 0.60 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (5,6-dioxo-2,3,5,6-tetrahydronaphtho[1,2-b][1,4]oxathiin-2-yl)methyl methanesulfonate | 1.1 g, 85% | CS(=O)(=O)OCC1CSC2=C(O1)C1=CC=CC=C1C(C2=O)=O | C14H12O6S2
